US08809525B2
6-(3,5-Difluorophenyl)-5-phenyl-1,2,4-triazin-3-amine (160 mg, 47%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.30 g, 1.19 mmol) and 3,5-difluorophenylboronic acid (0.20 g, 1.30 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.19 mmol, 0.30 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3,5-difluorophenylboronic acid | 1.30 mmol, 0.20 g | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
product | 6-(3,5-Difluorophenyl)-5-phenyl-1,2,4-triazin-3-amine | 160 mg, 47% | FC=1C=C(C=C(C1)F)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C15H10F2N4
